US06713471B1
To a solution of ethanolamine (1.09 g, 17.8 mmol) in THF was added benzoyl chloride (520 mg, 3.60 mmol) dropwise at 0° C. under N2 atmosphere. The reaction mixture was stirred for 10 min and then quenched with 1M HCl. The mixture was then diluted with EtOAc and washed with sat. aq. NaHCO3 and brine. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was crystalized to give N-(2-hydroxyethyl)benzamide (593 mg, 97%) as a white crystalline solid. 1H NMR (CDCl3, 300 MHz) δ3.41 (s, 1H), 3.49-3.59 (m, 2H), 3.75 (t, 2H, J=5.2 Hz), 7.10 (s, 1H), 7.32-7.38 (m, 2H), 7.42-7.48 (m, 1H), 7.72-7.76 (m, 2H) ppm.

reactant | ethanolamine | 17.8 mmol, 1.09 g | C(O)CN | C2H7NO
reactant | benzoyl chloride | 3.60 mmol, 520 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-hydroxyethyl)benzamide | 593 mg, 97% | OCCNC(C1=CC=CC=C1)=O | C9H11NO2
